US04565657
5.0 g of 17α-acetoxy-6β-chloro-7α-hydroxy-1α,2α-methylene-4-pregnene-3,20-dione is mixed in 25 ml of dichloromethane with 0.1 g of p-toluenesulfonic acid and 3.0 ml of trimethyl orthoformate. The mixture is allowed to stand for 4 hours at 0° C., mixed with 20 ml of water and stirred for 15 minutes. Then the organic phase is separated, dried with sodium sulfate and concentrated in vacuo. Thus, 4.8 g of 17α-acetoxy-6-chloro-1α,2α-methylene-4,6-pregnadiene-3,20-dione with a melting point of 202° to 205° C. (80% purity) is obtained.

reactant | 17α-acetoxy-6β-chloro-7α-hydroxy-1α,2α-methylene-4-pregnene-3,20-dione | 5.0 g | C(C)(=O)O[C@]1(C(C)=O)CC[C@H]2[C@@H]3[C@@H]([C@H](C4=CC([C@H]5[C@@H]([C@]4(C)[C@H]3CC[C@]12C)C5)=O)Cl)O | C24H31ClO5
reactant | p-toluenesulfonic acid | 0.1 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | trimethyl orthoformate | 3.0 ml | C(OC)(OC)OC | C4H10O3
reactant | water | 20 ml | O | H2O
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | 17α-acetoxy-6-chloro-1α,2α-methylene-4,6-pregnadiene-3,20-dione | 4.8 g | C(C)(=O)O[C@]1(C(C)=O)CC[C@H]2[C@@H]3C=C(C4=CC([C@H]5[C@@H]([C@]4(C)[C@H]3CC[C@]12C)C5)=O)Cl | C24H29ClO4
